US07074794B2
Conc. sulfuric acid (50 mL) was added to 2-chlorobenzothiazole (10 g) under ice-cooling, and conc. nitric acid (5 mL) was added dropwise under ice-cooling. The mixture was stirred under ice-cooling for 1 hr, and iced water (600 mL) was added to the reaction mixture. The precipitated solid was collected by filtration, which was then recrystallized from acetone to give 2-chloro-6-nitrobenzothiazole (6.36 g) as a pale-yellow powder.

reactant | sulfuric acid | 50 mL | S(O)(O)(=O)=O | H2O4S
reactant | 2-chlorobenzothiazole | 10 g | ClC=1SC2=C(N1)C=CC=C2 | C7H4ClNS
reactant | nitric acid | 5 mL | [N+](=O)(O)[O-] | HNO3
solvent | water | 600 mL | O | H2O
product | 2-chloro-6-nitrobenzothiazole | 6.36 g | ClC=1SC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C7H3ClN2O2S
